US05780241
4-(Azidopropoxy)-2,6-diformyl-pyridine
DMSO (1.21 mL, 17.1 mmol) was diluted with CH2Cl2 (approximately 25 mL) and cooled to -78° C. Oxalyl chloride (0.745 mL, 8.45 mmol) was added dropwise and the reaction mixture was stirred for 15 minutes. 4-(3-azidopropoxy)-2,6-dihydroxymethylpyridine (1 g, 4.27 mmol) dissolved in CH2Cl2 (10 mL) was added slowly to the cooled reaction mixture. After 0.5 hour triethylamine (2.77 mL, 19.70 mmol) was added dropwise to the reaction mixture. The dry ice/acetone bath was removed and the reaction mixture was warmed to room temperature for approximately 40 minutes. The reaction mixture was partitioned between CH2Cl2 and water and extracted several times with CH2Cl2. The CH2Cl2 layers were combined, dried (MgSO4) and concentrated in vacuo. The resulting residue was purified by silica gel flash column chromatography to give the title compound. 1H NMR (DMSO) δ 2.02 (m, 2H, CH2), 3.52 (t, 2H, CH2), 4.31 (t, 2H, CH2), 7.64 (s, 2H, 2×Ar), 10.01 (s ,2H, CHO). 13C NMR (DMSO) δ 27.61 (CH2), 47.40 (CH2), 66.22 (CH2), 111.58 (Ar), 154.40 (quaternary, Ar), 166,50 (quaternary, Ar), 192.44 (CHO).

reactant | DMSO | 17.1 mmol, 1.21 mL | CS(=O)C | C2H6OS
reactant | Oxalyl chloride | 8.45 mmol, 0.745 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-(3-azidopropoxy)-2,6-dihydroxymethylpyridine | 4.27 mmol, 1 g | N(=[N+]=[N-])CCCOC1=CC(=NC(=C1)CO)CO | C10H14N4O3
reactant | triethylamine | 19.70 mmol, 2.77 mL | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | approximately 25 mL | C(Cl)Cl | CH2Cl2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 4-(Azidopropoxy)-2,6-diformyl-pyridine | N(=[N+]=[N-])CCCOC1=CC(=NC(=C1)C=O)C=O | C10H10N4O3
